US05994355
Synthesis of 3,5-dichloro-4-(3,4-dichloro-α-cyanobenzyl)aniline
In 100 ml of methanol were dissolved 7.6 g of α-(3,4-dichlorophenyl)-α-(2,6-dichloro-4-nitrophenyl)acetonitrile and 0.8 g (50%) of Raney's nickel. The solution was subjected to reduction with three times as much mol. of hydrogen gas. Insolubles were removed from the reaction mixture, then the remaining solution was concentrated to give the titled compound in a yield of 95%, m.p. 191-194° C.

reactant | α-(3,4-dichlorophenyl)-α-(2,6-dichloro-4-nitrophenyl)acetonitrile | 7.6 g | ClC=1C=C(C=CC1Cl)C(C#N)C1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl | C14H6Cl4N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Raney's nickel | 0.8 g | [Ni] | Ni
product | 3,5-dichloro-4-(3,4-dichloro-α-cyanobenzyl)aniline | yield of 95% | ClC=1C=C(N)C=C(C1C(C1=CC(=C(C=C1)Cl)Cl)C#N)Cl | C14H8Cl4N2
